US09162987B2
4-Iodo-6-(furan-2-yl)pyrimidine (ACT-MIF-012)
The compound was prepared according to Example 1 using furan-2-boronic acid and 4,6-dichloropyrimidine. The resultant chloro compound was converted to iodo with hydroiodic acid as described in the general procedure.

reactant | furan-2-boronic acid | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | 4,6-dichloropyrimidine | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | hydroiodic acid | I | HI
product | 4-Iodo-6-(furan-2-yl)pyrimidine | IC1=NC=NC(=C1)C=1OC=CC1 | C8H5IN2O
